US08293735B2
4-[6-(4-Cyclopropyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-2-yl]-1H-indole-6-carbonitrile
A mixture of 2-chloro-6-(4-cyclopropyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (200 mg) and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-H-indole-6-carbonitrile (273 mg) were reacted using Suzuki coupling method B, to give the title compound (55 mg) as a white solid.

reactant | 2-chloro-6-(4-cyclopropyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 200 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C2CC2)N2CCOCC2 | C18H24ClN5OS
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-H-indole-6-carbonitrile | 273 mg | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC(=C1)C#N)C | C15H17BN2O2
product | 4-[6-(4-Cyclopropyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-2-yl]-1H-indole-6-carbonitrile | 55 mg | C1(CC1)N1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C1=C2C=CNC2=CC(=C1)C#N | C27H29N7OS
